US04348264
3-Methyl-7-(5-methyl-3-phenylisoxazole-4-carboxamido)ceph-3-em-4-carboxylic acid (25.9 g., 65 mmoles) was dissolved in anhydrous dimethylformamide (150 ml.). Triethylamine (19.7 g., 195 mmoles), potassium bicarbonate (19.5 g., 195 mmoles), sodium iodide (29.3 g., 195 mmoles) and chloromethyl pivalate (29.3 g., 195 mmoles) were added. An exotherm was noted, the temperature rising to approximately 35° C. After stirring for 6 hours at ambient temperature, monitoring by tlc (4:1 chloroform:ethyl acetate) indicated considerable starting material remained. Additional chloromethyl pivalate (8.4 g., 65 mmoles) was added and stirring at ambient temperature continued for 16 hours. Isolation as detailed in Preparation 1 gave pivaloyloxymethyl 3-methyl-7-(5-methyl-3-phenylisoxazole-4-carboxamido)ceph-3-em-4-carboxylate [25.3 g., 76%; Rf 0.8 (4:1 chloroform:ethyl acetate; ir (CH2Cl2) 1780, 1750, 1670 cm-1 ].

reactant | 3-Methyl-7-(5-methyl-3-phenylisoxazole-4-carboxamido)ceph-3-em-4-carboxylic acid | 65 mmoles, 25.9 g | CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(=O)C=2C(=NOC2C)C2=CC=CC=C2)=O | C19H17N3O5S
reactant | Triethylamine | 195 mmoles, 19.7 g | C(C)N(CC)CC | C6H15N
reactant | potassium bicarbonate | 195 mmoles, 19.5 g | C([O-])(O)=O.[K+]
reactant | sodium iodide | 195 mmoles, 29.3 g | [I-].[Na+]
reactant | chloromethyl pivalate | 195 mmoles, 29.3 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | chloromethyl pivalate | 65 mmoles, 8.4 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | pivaloyloxymethyl 3-methyl-7-(5-methyl-3-phenylisoxazole-4-carboxamido)ceph-3-em-4-carboxylate | CC=1CS[C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2NC(=O)C=2C(=NOC2C)C2=CC=CC=C2)=O | C25H27N3O7S
